US07229999B2
5-(4-Chloro-phenyl)-6-([1,3]dioxolan-4-ylmethoxy)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 23, using 5-bromo-6-chloro-nicotinic acid methyl ester, [1,3]dioxolan-4-yl-methanol (commercially available), 4-chlorophenylboronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (m/e): 433.2 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | [1,3]dioxolan-4-yl-methanol | O1COC(C1)CO | C4H8O3
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-6-([1,3]dioxolan-4-ylmethoxy)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1OCOC1 | C22H25ClN2O5
